US07109200B2
Benzyl 4-[[1-(tert-butoxycarbonyl)-4-[(ethoxycarbonyl)amino]-4-piperidinyl]methyl]-3-oxo-1-piperazinecarboxylate
Diphenylphosphoryl azide (15.8 ml) was added to a mixture of 4-[[4-(benzyloxycarbonyl)-2-oxo-1-piperazinyl]methyl]-1-(tert-butoxycarbonyl)-4-piperidinecarboxylic acid (29 g) obtained in Reference Example 6, triethylamine (10.2 ml) and toluene (290 ml) at 0° C. under stirring, and the mixture was stirred at room temperature for 1 hour, and at 100° C. for 2 hours. Ethanol (290 ml) was added, and the mixture was heated under reflux for 12 hours, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=1/3-ethyl acetate/methanol=10/1) to obtain the title compound (26 g, 82%) as pale yellow powders.

reactant | Diphenylphosphoryl azide | 15.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-[[4-(benzyloxycarbonyl)-2-oxo-1-piperazinyl]methyl]-1-(tert-butoxycarbonyl)-4-piperidinecarboxylic acid | 29 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O)=O | C24H33N3O7
reactant | triethylamine | 10.2 ml | C(C)N(CC)CC | C6H15N
reactant | toluene | 290 ml | C1(=CC=CC=C1)C | C7H8
reactant | Ethanol | 290 ml | C(C)O | C2H6O
product | Benzyl 4-[[1-(tert-butoxycarbonyl)-4-[(ethoxycarbonyl)amino]-4-piperidinyl]methyl]-3-oxo-1-piperazinecarboxylate | 26 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)OCC)CN1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C26H38N4O7
